US07851465B2
(Z)-7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (200 mg, 0.35 mmol) was dissolved in anhydrous anisole (4 mL) under a nitrogen atmosphere, aluminum chloride (280 mg, 2.1 mmol) was added and the mixture was heated to 85° C. for 1 hour. The solution was cooled to ambient temperature, poured onto ice, rinsing the flask with ethyl acetate and water. The mixture was slurried for 10 minutes. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried with sodium sulfate, decanted and concentrated in the presence of silica gel. The residue was chromatographed on silica gel eluting with 70-100% ethyl acetate in hexanes switching to a gradient of 0-10% methanol in ethyl acetate to give (Z)-7-chloro-3-(2-chlorobenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (70 mg, 44%). 1H NMR (300 MHz, DMSO-d6) δ 3.46 (d, 2H) 3.76 (t, 1H), 6.90 (m, 2H), 7.01 (s, 1H) 7.21-7.64 (m, 7H), 10.70 (s, 1H), 10.74 (s, 1H), 10.85 (s, 1H); ESI m/z measured 451.0736 [M+H+], calculated 451.0729.

reactant | (Z)-7-Chloro-3-(2-chlorobenzyl)-1-(4-methoxybenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.35 mmol, 200 mg | ClC1=CC\2=C(N(C(C(\N=C2\C2=CC3=C(NC(N3)=O)C=C2)CC2=C(C=CC=C2)Cl)=O)CC2=CC=C(C=C2)OC)C=C1 | C31H24Cl2N4O3
reactant | aluminum chloride | 2.1 mmol, 280 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 4 mL | C1(=CC=CC=C1)OC | C7H8O
product | (Z)-7-chloro-3-(2-chlorobenzyl)-5-(2-oxo-2,3-dihydro-1H-benzo[d]imidazol-5-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 70 mg, 44% | ClC1=CC\2=C(NC(C(\N=C2\C2=CC3=C(NC(N3)=O)C=C2)CC2=C(C=CC=C2)Cl)=O)C=C1 | C23H16Cl2N4O2
